US05464861
A mixture of 2-chloroindole-3-carboxaldehyde (7.0 g, 36 mmol) was reacted with a slight excess of hydroxylamine hydrochloride and pyridine in refluxing EtOH for 1 hour, to give the crude oxime (Latrell R, Bartmann W, Musif J, Granzer E, German Patent 2,707,268, 31 Aug 1978, Chem. Abstr. 1978;89:179858y). A solution of this in Ac2O (100 mL) was heated under reflux for 1 hour, cooled, and stirred with water (700 mL). The precipitated solid was collected, washed with water, and crystallized from aqueous MeOH to give 2-chloro-1H-indole-3-carbonitrile (3.7 g, 58%); mp 177°-180° C.

reactant | 2-chloroindole-3-carboxaldehyde | 36 mmol, 7.0 g | ClC=1NC2=CC=CC=C2C1C=O | C9H6ClNO
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | EtOH | CCO | C2H6O
solvent | Ac2O | 100 mL | CC(=O)OC(=O)C | C4H6O3
solvent | water | 700 mL | O | H2O
product | 2-chloro-1H-indole-3-carbonitrile | 3.7 g, 58% | ClC=1NC2=CC=CC=C2C1C#N | C9H5ClN2
